US09371320B2
C) 4-(4-oxo-1-(tetrahydrofuran-3-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide
To a solution of 4-(4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide (17.1 mg) in acetonitrile (2 mL) were added sodium iodide (17.1 mg) and chloro(trimethyl)silane (0.058 mL), and the mixture was stirred overnight at 50° C. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate to ethyl acetate/methanol) to give the title compound (11.1 mg).

reactant | 4-(4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide | 17.1 mg | COC1=NC=CC2=C1C(=CN2C2COCC2)C2=CC=C(C=C2)S(=O)(=O)N | C18H19N3O4S
reactant | sodium iodide | 17.1 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.058 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-(4-oxo-1-(tetrahydrofuran-3-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide | 11.1 mg | O=C1NC=CC2=C1C(=CN2C2COCC2)C2=CC=C(C=C2)S(=O)(=O)N | C17H17N3O4S
